US09403807B2
Step A: methyl 2-(4-chlorophenyl)-2-(4-(ethylsulfonamido)-1H-indol-1-yl)butanoate
Ethanesulfonyl chloride (0.26 g, 2 mmol) was added to a stirred solution of methyl 2-(4-amino-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate (0.58 g, 1.7 mmol), as described in Example 3 Step B, and 4-methylmorpholine (0.25 g, 2.5 mmol) in DCM (8 mL) at 0° C. After 30 min, an additional portion of ethanesulfonyl chloride (0.1 g, 1 mmol) was added. After 1 h, the reaction mixture was partitioned between DCM and saturated aqueous ammonium chloride. The layers were separated and the aqueous layer was extracted with DCM. The combined organic layers were washed with brine, dried sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel flash chromatography (PE: EA=2:1) to afford the title compound. LC/MS m/z=435.1 [M+H]+.

reactant | Ethanesulfonyl chloride | 2 mmol, 0.26 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | methyl 2-(4-amino-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate | 1.7 mmol, 0.58 g | NC1=C2C=CN(C2=CC=C1)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C19H19ClN2O2
reactant | 4-methylmorpholine | 2.5 mmol, 0.25 g | CN1CCOCC1 | C5H11NO
reactant | ethanesulfonyl chloride | 1 mmol, 0.1 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(4-chlorophenyl)-2-(4-(ethylsulfonamido)-1H-indol-1-yl)butanoate | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)CC | C21H23ClN2O4S
